US05206240
Step A: Preparation of N-cyano-N'-methyl-N"-[4-(2-hydroxyethyl)benzyl]guanidine
A solution of 0.42 g (0.00168 mol) of N-cyano-N'-[4-(2-hydroxyethyl)benzyl]-S-methylisothiourea in 50 ml of methanol and 10 g of methylamine was stirred at room temperature overnight. Evaporation of the solvent gave the title compound.

reactant | N-cyano-N'-[4-(2-hydroxyethyl)benzyl]-S-methylisothiourea | 0.00168 mol, 0.42 g | C(#N)NC(SC)=NCC1=CC=C(C=C1)CCO | C12H15N3OS
reactant | methylamine | 10 g | CN | CH5N
solvent | methanol | 50 ml | CO | CH4O
product | N-cyano-N'-methyl-N"-[4-(2-hydroxyethyl)benzyl]guanidine | C(#N)NC(=NCC1=CC=C(C=C1)CCO)NC | C12H16N4O
